US06624160B2
N-(4-chlorobenzyl)-4-hydroxy-6-(4-morpholinylmethyl)-3-cinnolinecarboxamide
A solution of ethyl 4-hydroxy-6-(4-morpholinylmethyl)-3-cinnolinecarboxylate (Preparation 11, 0.382 g) and 4-chlorobenzylamine (1.46 mL) is heated to 80° C. for 30 min over which time a solid forms. The reaction is diluted with Et2O and the resulting solid is collected and dried to yield 0.443 g (89%) of the desired compound as an off-white solid. Physical characteristics are as follows: m.p. 277-280° C. (dec); 1H NMR (DMSO-d6) δ10.12, 8.09, 7.86, 7.74, 7.40, 4.56, 3.63, 3.58, 2.38; MS (ESI+) for C21H21ClN4O3 m/z 413.0 (M+H)+MS (ESI−), 410.9 (M−H)−.

reactant | ethyl 4-hydroxy-6-(4-morpholinylmethyl)-3-cinnolinecarboxylate | 0.382 g | OC1=C(N=NC2=CC=C(C=C12)CN1CCOCC1)C(=O)OCC | C16H19N3O4
reactant | 4-chlorobenzylamine | 1.46 mL | ClC1=CC=C(CN)C=C1 | C7H8ClN
solvent | Et2O | CCOCC | C4H10O
product | N-(4-chlorobenzyl)-4-hydroxy-6-(4-morpholinylmethyl)-3-cinnolinecarboxamide | 0.443 g, 89% | ClC1=CC=C(CNC(=O)C=2N=NC3=CC=C(C=C3C2O)CN2CCOCC2)C=C1 | C21H21ClN4O3
